US07456164B2
Intermediate 21: Methanesulfonic acid 1-isopropyl-piperidin-4-yl ester
1-Isopropyl-4-hydroxypiperidine (1 g, 6.98 mmol), DCM (10 ml) and triethylamine (1.08 ml, 7.68 mmol) were cooled to 0-5° C. and mesyl chloride (0.54 ml, 6.98 mmol) was added dropwise under N2. The reaction was allowed to warm to room temperature and stirred for 1 hour. The reaction was quenched with sat. NaHCO3 (20 ml) and the aqueous phase extracted with DCM (2×5 ml). The combined organic extracts were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo to give the title compound (1.55 g, 100%) as a pale yellow oil.

reactant | 1-Isopropyl-4-hydroxypiperidine | 6.98 mmol, 1 g | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triethylamine | 7.68 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 6.98 mmol, 0.54 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 1-isopropyl-piperidin-4-yl ester | 1.55 g, 100% | C(C)(C)N1CCC(CC1)OS(=O)(=O)C | C9H19NO3S
